US09371324B2
Synthesis of 1-(4-Fluoro-phenyl)-4-((6bR,10aS)-2,3,6b,9,10,10a-hexahydro-1H,7H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxalin-8-yl)-butan-1-ol
1-(4-Fluoro-phenyl)-4-((6bR,10aS)-2,3,6b,9,10,10a-hexahydro-1H,7H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxalin-8-yl)-butan-1-one HCl salt (500 mg, 1.20 mmol) is suspended in 20 mL of methanol. NaBH4 (136 mg, 3.60 mmol) is added slowly into the suspension at room temperature. The suspension changed into a clear solution during the addition of NaBH4. After an hour, additional 90 mg of NaBH4 is added into the mixture to push the reaction to completion. The reaction mixture is quenched by adding 10 mL of water. After solvent is removed by rotary evaporation, the residue is treated with 10 mL of 1N NaOH aqueous solution, and then extracted with methylene chloride three times. The combined organic phase is washed with water, dried with anhydrous sodium sulfate, and then evaporated to dryness under vacuum to give 434 mg off-white foamy solids with 98% purity and 95% yield. MS (ESI) m/z 382.2 [M+H]+

reactant | 1-(4-Fluoro-phenyl)-4-((6bR,10aS)-2,3,6b,9,10,10a-hexahydro-1H,7H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxalin-8-yl)-butan-1-one HCl salt | 1.20 mmol, 500 mg | Cl.FC1=CC=C(C=C1)C(CCCN1C[C@@H]2[C@@H](N3CCNC=4C=CC=C2C34)CC1)=O
reactant | NaBH4 | 3.60 mmol, 136 mg | [BH4-].[Na+]
reactant | NaBH4 | 90 mg | [BH4-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | 1-(4-Fluoro-phenyl)-4-((6bR,10aS)-2,3,6b,9,10,10a-hexahydro-1H,7H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxalin-8-yl)-butan-1-ol | 434 mg, 95% yield | FC1=CC=C(C=C1)C(CCCN1C[C@@H]2[C@@H](N3CCNC=4C=CC=C2C34)CC1)O | C23H28FN3O
